US05739129
2-[3-Amino-2,4-dioxo-5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
To a solution of 2-[2,4-Dioxo-3-(phenyl-hydrazono)-5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (4.6 g, 7.74 mmol) in glacial acetic acid (45 mL) was added zinc dust (4.6 g). The heterogenous solution stirred at RT for 15 h and subsequently filtered through a bed of celite, washed with ethyl acetate and concentrated to dryness. The resulting oil was dissolved in ethyl acetate (200 mL) and extracted with saturated sodium bicarbonate (×3), brine, dried MgSO4, and concentrated in vacuo. The resulting oil was purified by silica gel flash chromatography (5% methanol/DCM) to yield the title compound (385 mg): 1HNMR (CDCl3, 300 MHz) δ 7.60-6.80 (m, 10H), 5.05 (m, 1H), 4.4(m, 1H), 3.82 (s, 3H), 3.74 (s, 3H), 3.62 (s, 2H), 2.24 (s, 3H), 1.20 (s, 3H), 1.09 (m, 6H); low resolution MS(FAB) m/z 505 (MH+).

reactant | 2-[2,4-Dioxo-3-(phenyl-hydrazono)-5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 7.74 mmol, 4.6 g | O=C1C(C(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C(=NN(C2C)C)C)=O)=NNC2=CC=CC=C2 | C33H35N7O4
solvent | acetic acid | 45 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 4.6 g | [Zn] | Zn
product | 2-[3-Amino-2,4-dioxo-5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 385 mg | NC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C(=NN(C2C)C)C)=O | C27H32N6O4
